US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4,6-diphenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), phenylboronic acid (100 mg), tetrakis(triphenylphosphine)palladium(0) (35 mg), toluene (6 ml), ethanol (0.8 ml) and 2M aqueous sodium carbonate solution (0.8 ml) was heated under reflux under a nitrogen atmosphere for 6 hrs. To the reaction mixture were further added dihydroxyphenylborane (100 mg), tetrakis(triphenylphosphine)palladium(0) (35 mg), ethanol (0.8 ml) and 2M aqueous sodium carbonate solution (0.8 ml), and the mixture was heated under reflux for 6 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The solvent was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) and recrystallized (ethyl acetate-hexane) to give the title compound (260 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C25H18BrNO5
reactant | phenylboronic acid | 100 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 0.8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | dihydroxyphenylborane | 100 mg | OB(C1=CC=CC=C1)O | C6H7BO2
reactant | sodium carbonate | 2M, 0.8 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4,6-diphenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 260 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC2=C(OCO2)C=C1 | C31H23NO5
